US06204282B1
2-(Methylaminomethyl)benzimidazole dihydrochloride hydrate
Combine o-phenylenediamine (10.8 g, 100 mmol) and sarcosine (13.4 g, 150 mmol) in 6 N HCl (100 mL). Heat at reflux 90 hours, allow to cool, and concentrate in vacuo to 45 g. Add EtOH (50 mL) and chill at −15° C. Filter the solid and wash with cold 90% EtOH. Dissolve in 80% EtOH (150 mL) and decolorize with charcoal. Concentrate in vacuo to 28 g, warm with 95% EtOH (160 mL), allow to cool, and filter to provide colorless rods.

reactant | o-phenylenediamine | 100 mmol, 10.8 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sarcosine | 150 mmol, 13.4 g | N(C)CC(=O)O | C3H7NO2
reactant | HCl | 6 N, 100 mL | Cl | ClH
product | 2-(Methylaminomethyl)benzimidazole dihydrochloride hydrate | O.Cl.Cl.CNCC=1NC2=C(N1)C=CC=C2 | InChI=1S/C9H11N3.2ClH.H2O/c1-10-6-9-11-7-4-2-3-5-8(7)12-9;;;/h2-5,10H,6H2,1H3,(H,11,12);2*1H;1H2
